US07262206B2
(6) 1,5-diacetyl-3-[(3,4-dichloro-phenyl)-hydroxy-methylidene]-2-indolinone
Prepared from 1,5-diacetyl-2-indolinone and 3,4-dichlorobenzoic acid

reactant | 1,5-diacetyl-2-indolinone | C(C)(=O)N1C(CC2=CC(=CC=C12)C(C)=O)=O | C12H11NO3
reactant | 3,4-dichlorobenzoic acid | ClC=1C=C(C(=O)O)C=CC1Cl | C7H4Cl2O2
product | 1,5-diacetyl-3-[(3,4-dichloro-phenyl)-hydroxy-methylidene]-2-indolinone | C(C)(=O)N1C(C(C2=CC(=CC=C12)C(C)=O)=C(O)C1=CC(=C(C=C1)Cl)Cl)=O | C19H13Cl2NO4
